US07153878B2
(4-Chlorosulfonyl-phenoxy)-acetic acid ethyl ester
Phenoxy-acetic acid ethyl ester (9.1 mL) is added to chlorosulfonic acid (15 mL) at 0° C. dropwise. The reaction is stirred at 0° C. for 30 min, it is allowed to warm to room temperature. After 2 hrs, the reaction mixture is poured into ice, solid product is collected by filtration and dried under vacuum.

reactant | Phenoxy-acetic acid ethyl ester | 9.1 mL | C(C)OC(COC1=CC=CC=C1)=O | C10H12O3
reactant | chlorosulfonic acid | 15 mL | ClS(=O)(=O)O | ClHO3S
product | (4-Chlorosulfonyl-phenoxy)-acetic acid ethyl ester | C(C)OC(COC1=CC=C(C=C1)S(=O)(=O)Cl)=O | C10H11ClO5S
